US07101886B2
Starting with N-[2-(2-chloro-acetyl)-5-isopropyl-phenyl]-acetamide (0.30 g, 1.182 mmol), and 3-piperazin-1-yl-benzo[d]isothiazole hydrochloride (0.302 g, 1.182 mmol) and following the procedure as outlined in Example 517, N-{2-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-acetyl]-5-isopropyl-phenyl}-acetamide (0.375 g, 0.859 mmol) was obtained as its hydrochloride salt from treatment with dioxane/HCl(gas). Yield=73%. 100% purity at 254 nM. 1H NMR (400 MHz, DMSO-d6) δ 10.71 (s, 1H), 10.36 (bs, 1H), 8.14 (d, J=8.24 Hz, 1H), 8.09 (d, J=8.24 Hz, 1H), 7.78–7.72 (m, 2H), 7.58 (t, J=7.56 Hz, 1H), 7.45 (t, J=7.56 Hz, 1H), 7.18 (d, J=8.24 Hz, 1H), 5.00 (s, 2H), 4.13–4.01 (m, 2H), 3.68–3.44 (m, 6H), 3.40 (s, H2O), 2.93 (heptet, J=6.95 Hz, 1H), 2.08 (s, 3H), 1.19 (d, J=6.95 Hz, 6H).

reactant | N-[2-(2-chloro-acetyl)-5-isopropyl-phenyl]-acetamide | 1.182 mmol, 0.30 g | ClCC(=O)C1=C(C=C(C=C1)C(C)C)NC(C)=O | C13H16ClNO2
reactant | 3-piperazin-1-yl-benzo[d]isothiazole hydrochloride | 1.182 mmol, 0.302 g | Cl.N1(CCNCC1)C1=NSC2=C1C=CC=C2
product | N-{2-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-acetyl]-5-isopropyl-phenyl}-acetamide | 0.859 mmol, 0.375 g, Yield=73% | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CC(=O)C2=C(C=C(C=C2)C(C)C)NC(C)=O | C24H28N4O2S
